### PR TITLE
Improve the infrastructure of `nia` tests a bit

### PR DESCRIPTION
**Pull request by JasonGross**
No semantic changes.  This is to allow better factoring of #17933 with other PRs.

### CODE REVIEW

File: test-suite/success/Nia.v [hunk 1]
```diff
@@ -4,39 +4,79 @@ Open Scope Z_scope.
...
 (** Add [Z.to_euclidean_division_equations] to the end of [zify], just for this
     file. *)
-Require  Zify.
+Require Zify.
 Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations.
 
-Lemma Z_zerop_or x : x = 0 \/ x <> 0. Proof. nia. Qed.
-Lemma Z_eq_dec_or (x y : Z) : x = y \/ x <> y. Proof. nia. Qed.
+Lemma Z_zerop_or x : x = 0 \/ x <> 0. Proof. apply Z.eq_decidable. Qed.
+Lemma Z_eq_dec_or (x y : Z) : x = y \/ x <> y. Proof. apply Z.eq_decidable. Qed.
```
Comment (ppedrot) [inline test-suite/success/Nia.v:11]: Were we testing nia here or was it just a matter of simplicity?

Comment (JasonGross) [reply test-suite/success/Nia.v:11]: Just simplicity.  These were the lemmas that I wrote for the Ltac infrastructure a couple lines down

**Review by ppedrot — APPROVED** [review]
